US08258131B2
(1) Preparation of 7-chloro-4-(4-fluorophenyl)-2H-chromen-2-one
Under argon atmosphere, a mixture of (4-chloro-2-hydroxyphenyl)(4-fluorophenyl)methanone (1.00 g) and methyl(triphenylphosphoranylidene)acetate (3.00 g) in toluene (15 mL) was heated under reflux for 15 hours. After cooling, the reaction solution was poured into a saturated aqueous solution of ammonium chloride and the mixture was extracted with ethyl acetate. The organic layer was washed successively with a saturated aqueous solution of sodium bicarbonate and brine, dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified by column chromatography on silica gel (Solvent: n-hexane/ethyl acetate=95/5 to 85/15) and the product was triturated in n-hexane-diisopropyl ether to give the titled compound (0.54 g) as a pale yellow powder.

reactant | (4-chloro-2-hydroxyphenyl)(4-fluorophenyl)methanone | 1.00 g | ClC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)O | C13H8ClFO2
reactant | methyl(triphenylphosphoranylidene)acetate | 3.00 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-4-(4-fluorophenyl)-2H-chromen-2-one | 0.54 g | ClC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C15H8ClFO2
